US09169254B2
Potassium carbonate (13.96 g, 101.1 mmol) and 3-chlorobenzenesulfonyl chloride were continuously added to a two-phase solution of 4-piperidone hydrochloride hydrate (6.06 g, 39.48 mmol) in chloroform (47.4 mL) and water (47.4 mL), and the mixture was stirred at room temperature. A saturated aqueous sodium bicarbonate solution was added, and the organic layer and the aqueous layer were separated. The aqueous layer was then further extracted with dichloromethane. The organic layers were combined, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resulting solid was washed with n-hexane and then collected by filtration and dried under reduced pressure to give 1-(3-chloro-benzenesulfonyl)-piperidin-4-one as a white solid (10.5 g, 97%).

reactant | Potassium carbonate | 101.1 mmol, 13.96 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chlorobenzenesulfonyl chloride | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 4-piperidone hydrochloride hydrate | 39.48 mmol, 6.06 g | O.Cl.N1CCC(CC1)=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 47.4 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 47.4 mL | O | H2O
product | 1-(3-chloro-benzenesulfonyl)-piperidin-4-one | 10.5 g, 97% | ClC=1C=C(C=CC1)S(=O)(=O)N1CCC(CC1)=O | C11H12ClNO3S
